US07101891B2
3-(Benzoylamino-methyl)-5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid tert-butyl ester
Add benzoyl chloride (0.11 mL, 0.98 mmol) to a solution of 3-aminomethyl-5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.4 g, 0.89 mmol) in CH2Cl2 (10 mL). Add Et3N (0.4 mL, 2.67 mmol) and DMAP (5 mg, cat.). Stir 4 H at room temperature then add CHCl3. Wash 2× with sat. aq NaHCO3, wash 2× with 1N HCl, wash 2× with brine, dry over Na2SO4, filter and concentrate to dryness. Purify by radial chromatography using a MeOH/CHCl3 gradient as eluant. Purify again via radial chromatography using an EtOAc/hexane gradient as eluant and concentrate to dryness to afford the title compound (0.258 g, 53%) as a white foam as a mixture of cis isomers. MS(IS) 551.3 (M+). Purify via chiral HPLC (Chiralcel OD 4.6×250 mm. Eluant: 35% IPA, 65% heptane. Flow: 1.0 mL/min. UV: 240 nM). Chromatography affords isomer 1 of the title compound (59 mg, 23%) as a white solid. MS(IS) 551.3 (M+); Rt=7.0 min. Chromatography affords isomer 2 of the title compound (124 mg, 48%) as a white solid. MS(IS) 551.3; Rt=15.0 min.

reactant | benzoyl chloride | 0.98 mmol, 0.11 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-aminomethyl-5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.89 mmol, 0.4 g | C(C)(C)(C)OC(=O)N1CC(CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)CN | C22H27ClN4O4
reactant | Et3N | 2.67 mmol, 0.4 mL | CCN(CC)CC | C6H15N
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(Benzoylamino-methyl)-5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.258 g, 53% | C(C)(C)(C)OC(=O)N1CC(CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)CNC(C2=CC=CC=C2)=O | C29H31ClN4O5
